US08193192B2
To a solution of 4-{6-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-pyridin-3-yloxy}-benzoic acid methyl ester (0.070 g, 0.14 mmol) in methanol (5 ml) was added NaOH (0.104 g, 2.6 mmol) and water (0.25 ml) and the reaction mixture was stirred at room temperature for 30 h. Then solvent was evaporated, water (1.5 ml) was added and the mixture was acidified to pH 6 with 1N hydrochloric acid and the resulting solution was extracted with ethyl acetate. The extract was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure to afford 4-{6-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-pyridin-3-yloxy}-benzoic acid as colorless oil. Yield: 0.037 g (53%).

reactant | 4-{6-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-pyridin-3-yloxy}-benzoic acid methyl ester | 0.14 mmol, 0.070 g | COC(C1=CC=C(C=C1)OC=1C=NC(=CC1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)=O | C26H22Cl2N2O5
reactant | NaOH | 2.6 mmol, 0.104 g | [OH-].[Na+]
reactant | water | 0.25 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 4-{6-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-pyridin-3-yloxy}-benzoic acid | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=N1)OC1=CC=C(C(=O)O)C=C1)C(C)C | C25H20Cl2N2O5
